US06326337B1
1-Fluoro-3-(perfluorohexyl) benzene was prepared by heating 6.02 g 1-fluoro-3-iodobenzene and 13.3 g perfluorohexyl iodide with excess copper in dimethyl sulfoxide (DMSO) at approximately 125° C. for 24 hours. The product, 1 -fluoro-3-perfluorohexyl benzene, was obtained in good yield (10.0 g, 89%).

reactant | 1-fluoro-3-iodobenzene | 6.02 g | FC1=CC(=CC=C1)I | C6H4FI
reactant | perfluorohexyl iodide | 13.3 g | FC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)I | C6F13I
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
catalyst | copper | [Cu] | Cu
product | 1-Fluoro-3-(perfluorohexyl) benzene | FC1=CC(=CC=C1)C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C12H4F14
